US08304419B2
Step B: 2,6-Dichloro-3-methylphenol
Zn powder (9.84 g, 150 mmol) was added to a solution of 4-bromo-2,6-dichloro-3-methylphenol (4.92 g, 19.22 mmol) in 10% NaOH (50 ml, 125 mmol). The reaction mixture was stirred for 1 h at 100° C. and then cooled down to RT. The Zn powder was filtered off and the filtrate was acidified with 10% HCl and extracted with CH2Cl2. The combined organic extracts were dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel eluted with 0-5% EtOAc in hexane to give the title compound as a colorless oil (2.98 g, 88%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.14 (1H, d) 6.76 (1H, d) 5.83 (1H, s) 2.34 (3H, s). LCMS: m/z 175 (M−1).

reactant | 4-bromo-2,6-dichloro-3-methylphenol | 19.22 mmol, 4.92 g | BrC1=C(C(=C(C(=C1)Cl)O)Cl)C | C7H5BrCl2O
reactant | NaOH | 125 mmol, 50 ml | [OH-].[Na+]
catalyst | Zn | 150 mmol, 9.84 g | [Zn] | Zn
product | 2,6-Dichloro-3-methylphenol | 2.98 g, 88% | ClC1=C(C(=CC=C1C)Cl)O | C7H6Cl2O
